US06262045B1
8.1. 5-Methyl-4-oxo-3-phenyl-8-(phenylmethoxy)-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetic acid
A solution of 1.15 g (2.7 mmol) of 5-methyl-4-oxo-3-phenyl-8-(phenylmethoxy)-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetonitrile and of 1.54 g (39 mmol) of potassium hydroxide in a mixture of 10 ml of water and of 20 ml oF 2-methoxyethanol is heated at reflux. The mixture is extracted with dichloromethane, the aqueous phase is acidified and extracted with ethyl acetate, the organic phase is dried over sodium sulphate and the solvent is evaporated under reduced pressure. 0.38 g (0.86 mmol) of solid is isolated, which solid is used as is in the following stage.

reactant | 5-methyl-4-oxo-3-phenyl-8-(phenylmethoxy)-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetonitrile | 2.7 mmol, 1.15 g | CN1C2=C(C=3C=C(C=CC13)OCC1=CC=CC=C1)C(=NN(C2=O)C2=CC=CC=C2)CC#N | C26H20N4O2
reactant | potassium hydroxide | 39 mmol, 1.54 g | [OH-].[K+]
reactant | 2-methoxyethanol | 20 ml | COCCO | C3H8O2
reactant | water | 10 ml | O | H2O
product | 5-Methyl-4-oxo-3-phenyl-8-(phenylmethoxy)-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetic acid | 0.86 mmol, 0.38 g | CN1C2=C(C=3C=C(C=CC13)OCC1=CC=CC=C1)C(=NN(C2=O)C2=CC=CC=C2)CC(=O)O | C26H21N3O4
